.title KiCad schematic
.include "/Users/andy/Documents/Developer/AudioDev/Onboard DSP Board HW/String Preamp Test Board/tlv9001.lib"
.include "/Users/andy/Documents/Developer/AudioDev/Onboard DSP Board HW/String Preamp Test Board/tlv9004.lib"
XU1 Net-_U1A--_ Net-_U1A--_ /sum_in /v+ /buf_in Net-_U1B--_ Net-_U1B--_ /filt_in Net-_U1C--_ Net-_U1C-+_ GND /vref VG VG TLV9004
R9 Net-_U1B--_ Net-_C7-Pad1_ 100
C7 Net-_C7-Pad1_ /RV3_in 4.7u
C6 GND /buf_in 4.7n
R30 /p2_out /sum_in 22k
C2 Net-_C2-Pad1_ /filt_in 8.2n
R28 /RV3_in GND 10k
R27 /filt_in /buf_in 1
R3 Net-_U1A--_ Net-_C2-Pad1_ 10k
R29 /sum_in /p1_out 22k
C5 GND /v+ 0.1u
R7 /vref /v+ 10k
R8 GND /vref 10k
C4 GND /vref 0.1u
V2 /v+ GND DC 3.7 
R6 Net-_U1C--_ /filt_in 15k
C3 Net-_U1C-+_ VG 8.2n
R4 Net-_C2-Pad1_ Net-_U1C-+_ 10k
R5 VG Net-_U1C--_ 10k
R11 /Summer/sim_in Net-_C8-Pad1_ 100k
R10 /Summer/sim_in Net-_C8-Pad1_ 100k
V1 /Summer/sim_in GND DC 0 SIN( 0 1 1k 0 0 0 ) AC 1  
R13 /Summer/sim_in Net-_C8-Pad1_ 100k
R12 /Summer/sim_in Net-_C8-Pad1_ 100k
R15 VG Net-_U2--_ 2.2k
R16 Net-_U2--_ /p1_out 22k
R14 Net-_U2-+_ VG 1Meg
C9 GND /v+ 100n
XU2 Net-_U2-+_ Net-_U2--_ /v+ GND /p1_out TLV9001
C8 Net-_C8-Pad1_ Net-_U2-+_ 5.6n
R18 /Summer1/sim_in Net-_C10-Pad1_ 100k
R17 /Summer1/sim_in Net-_C10-Pad1_ 100k
V3 /Summer1/sim_in GND DC 0 SIN( 0 1 1k 0 0 0 ) AC 1  
R20 /Summer1/sim_in Net-_C10-Pad1_ 100k
R19 /Summer1/sim_in Net-_C10-Pad1_ 100k
R22 VG Net-_U3--_ 2.2k
R23 Net-_U3--_ /p2_out 22k
R21 Net-_U3-+_ VG 1Meg
C11 GND /v+ 100n
XU3 Net-_U3-+_ Net-_U3--_ /v+ GND /p2_out TLV9001
C10 Net-_C10-Pad1_ Net-_U3-+_ 5.6n
.end
